### PR TITLE
WIP: Introduce AllPairs for vectors

### PR DESCRIPTION
**Pull request by umazalakain**
Mostly as taken from `Data.List.Relation.Unary.AllPairs`. I had to add a couple of proofs to `Data.Vec.Properties` and `Data.Vec.Relation.Unary.All.Properties`. The work on `Disjoint` is still missing (not sure how important that is). I believe `lookup-injective` is missing from the list counterpart, might be a useful addition.

### CODE REVIEW

File: src/Data/Vec/Relation/Unary/AllPairs.agda [hunk 1]
```diff
@@ -0,0 +1,82 @@
...
+head : ∀ {x n} {xs : Vec A n} → AllPairs R (x ∷ xs) → All (R x) xs
+head (px ∷ pxs) = px
+
+tail : ∀ {x n} {xs : Vec A n} → AllPairs R (x ∷ xs) → AllPairs R xs
+tail (px ∷ pxs) = pxs
+
+uncons : ∀ {x n} {xs : Vec A n} → AllPairs R (x ∷ xs) → All (R x) xs × AllPairs R xs
+uncons = < head , tail >
+
+module _ {q} {S : Rel A q} where
```
Comment (MatthewDaggitt) [inline src/Data/Vec/Relation/Unary/AllPairs.agda:44]: Probably be better to name the level `s` rather than `q` to match the name of the relation?

File: src/Data/Vec/Relation/Unary/Unique/Setoid.agda [hunk 2]
```diff
@@ -0,0 +1,35 @@
...
+------------------------------------------------------------------------
+-- Definition
+
+private
+  Distinct : Rel A ℓ
+  Distinct x y = ¬ (x ≈ y)
+
+open import Data.Vec.Relation.Unary.AllPairs.Core Distinct
+     renaming (AllPairs to Unique)
+     public
```
Comment (MatthewDaggitt) [inline src/Data/Vec/Relation/Unary/Unique/Setoid.agda:31]: According to the style guide, we usually put `public` before `using` and `renaming`

File: src/Data/Vec/Relation/Unary/Unique/Setoid/Properties.agda [hunk 3]
```diff
@@ -0,0 +1,76 @@
...
+------------------------------------------------------------------------
+-- lookup
+
+module _ (S : Setoid a ℓ) where
+
+  open Setoid S renaming (Carrier to A)
+
+  lookup-injective : ∀ {n xs} → Unique S {n} xs → ∀ i j → lookup xs i ≈ lookup xs j → i ≡ j
+  lookup-injective (px ∷ pxs) zero zero eq = P.refl
+  lookup-injective (px ∷ pxs) zero (suc j) eq = ⊥-elim (All.lookup j px eq)
```
Comment (MatthewDaggitt) [inline src/Data/Vec/Relation/Unary/Unique/Setoid/Properties.agda:74]: We encourage the use of `contradiction` rather than `⊥-elim` as its more readable.

**Comment by umazalakain** [comment]
> Looks really good. Any chance you can add a CHANGELOG entry?

Definitely! I wanted to check if this made sense before embarking on that. Thanks for the review btw ^_^

File: src/Data/Vec/Relation/Unary/Unique/Setoid/Properties.agda (hunk 3 above)
Comment (umazalakain) [reply src/Data/Vec/Relation/Unary/Unique/Setoid/Properties.agda:74]: TIL!

**Comment by gallais** [comment]
FYI: force-pushing makes it hard to see what the new changes are.
We squash the PRs anyways so even if you accumulate 20 commits on the PR,
it'll all be turned into a single final one by the time it hits `master`.

**Comment by umazalakain** [comment]
Oh dear sorry about that!

File: src/Data/Vec/Properties.agda [hunk 4]
```diff
@@ -76,6 +76,13 @@ unfold-take : ∀ n {m} x (xs : Vec A (n + m)) → take (suc n) (x ∷ xs) ≡ x
 unfold-take n x xs with splitAt n xs
 unfold-take n x .(xs ++ ys) | xs , ys , refl = refl
 
+------------------------------------------------------------------------
+-- drop
+
+unfold-drop : ∀ n {m} x (xs : Vec A (n + m)) → drop (suc n) (x ∷ xs) ≡ drop n xs
```
Comment (MatthewDaggitt) [inline src/Data/Vec/Properties.agda:82]: This needs adding to the CHANGELOG

File: src/Data/Vec/Relation/Unary/All/Properties.agda [hunk 5]
```diff
@@ -102,6 +106,51 @@ module _ {m} {P : Pred A p} where
   concat⁻ []         []   = []
   concat⁻ (xs ∷ xss) pxss = ++ˡ⁻ xs pxss ∷ concat⁻ xss (++ʳ⁻ xs pxss)
 
+------------------------------------------------------------------------
+-- swap
+
+module _ {_~_ : REL A B p} where
+
+  All-swap : ∀ {n m xs ys} →
```
Comment (MatthewDaggitt) [inline src/Data/Vec/Relation/Unary/All/Properties.agda:114]: Likewise these

File: src/Data/Vec/Properties.agda (hunk 4 above)
Comment (umazalakain) [reply src/Data/Vec/Properties.agda:82]: Oops, missed these, thanks!
